US08710000B2
Step 1: 3-(2-Benzyloxycarbonylethylamino)propionic acid
3-Aminopropionic acid (5 g, 56 mmol) was added to ethanol (50 mL), and TEA (7.8 ml, 56 mmol) and water (50 mL) were added and the mixture was refluxed under nitrogen. Acrylic acid benzyl ester ((9.1 g, 56 mmol) and more ethanol (50 mL) were added, and the mixture was refluxed for 16 h. The sample was concentrated under vacuum, adding toluene and reevaporating twice to yield 17.5 grams (product plus TEA).

reactant | 3-Aminopropionic acid | 56 mmol, 5 g | NCCC(=O)O | C3H7NO2
reactant | water | 50 mL | O | H2O
reactant | Acrylic acid benzyl ester | C(C1=CC=CC=C1)OC(C=C)=O | C10H10O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(2-Benzyloxycarbonylethylamino)propionic acid | C(C1=CC=CC=C1)OC(=O)CCNCCC(=O)O | C13H17NO4
